US05952362
A solution of 420 mg of N-[5-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-methoxy-phenyl]-methanesulfonamide (free base) in 24 ml of dichloromethane was cooled in an ice bath and treated with 10.3 ml of 1M boron tribromide in dichloromethane. Removed the ice bath, stirred at room temperature for 3 hr, added methanol, and evaporated. The residue was purified by flash chromatography on silica gel eluting with dichloromethane/methanol/concentrated ammonium hydroxide (85:5:3) and crystallized from ethanol/ether to afford 58 mg of N-[5-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-hydroxy-phenyl]-methanesulfonamide hydrobromide, mp 209-209.5° C.

reactant | N-[5-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-methoxy-phenyl]-methanesulfonamide | 420 mg | N1C(=NCC1)CC=1C=CC(=C(C1)NS(=O)(=O)C)OC | C12H17N3O3S
reactant | boron tribromide | 1M, 10.3 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 24 ml | ClCCl | CH2Cl2
product | N-[5-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-hydroxy-phenyl]-methanesulfonamide hydrobromide | 58 mg | Br.N1C(=NCC1)CC=1C=CC(=C(C1)NS(=O)(=O)C)O | InChI=1S/C11H15N3O3S.BrH/c1-18(16,17)14-9-6-8(2-3-10(9)15)7-11-12-4-5-13-11;/h2-3,6,14-15H,4-5,7H2,1H3,(H,12,13);1H
